US04350627
Step 1. Boc-Pro-Ser-NH2 (1)
To a solution of 1.00 g (4.65 mmoles) Boc-Pro-OH in 10 ml anhydrous tetrahydrofuran, 0.52 ml (4.65 mmoles) N-methylmorpholine, and 0.45 ml (4.65 mmoles) ethyl chloroformate are successively added at a temperature of -12° C. After stirring at this temperature for 2 minutes, a cold solution of 0.48 g (4.65 mmoles) H-Ser-NH2 (R. W. Hanson and H. N. Rydon, J. Chem. Soc., 836, 1964) in 10 ml dimethylformamide is added. The reaction mixture is stirred at -10° C. for 3 hours and at 20° C. for 1 hour, then filtered from salts and evaporated in vacuo. The residue is taken up with tetrahydrofuran, filtered, and the solution evaporated again in vacuo. By crystallization from methanol-diethylether 1.1 g of compound (1) are obtained: m.p. 138° C. [α]D25 -58.9° (c=1, MeOH); RfA =0.15; RfB =0.33.

reactant | Boc-Pro-OH | 4.65 mmoles, 1.00 g | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | N-methylmorpholine | 4.65 mmoles, 0.52 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 4.65 mmoles, 0.45 ml | ClC(=O)OCC | C3H5ClO2
reactant | H-Ser-NH2 | 4.65 mmoles, 0.48 g | N[C@@H](CO)C(=O)N | C3H8N2O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | MeOH | CO | CH4O
product | Boc-Pro-Ser-NH2 | N1([C@H](C(=O)N[C@@H](CO)C(=O)N)CCC1)C(=O)OC(C)(C)C | C13H23N3O5
